US05370823
Synthesis of trans-1,4-bis(5-octyloxypyrimidin-2-yl)cyclohexane
2.27 g (9.96 mmol) of 2-octyloxy-3-dimethylaminoacrolein in 5 ml of ethanol and 1.0 g (4.15 mmol) of transcyclohexane-1,4-diamidine dihydrochloride are added dropwise at room temperature to 230 mg (9.96 mmol) of sodium, dissolved in 6.3 ml of ethanol, and the mixture is refluxed for 120 hours. After cooling, the reaction solution is adjusted to pH 3 using semiconcentrated HC1 and evaporated, and 30 ml of water are added to the residue. The aqueous solution is extracted several times with dichloromethane. The organic phases are combined, dried over magnesium sulfate and evaporated in vacuo. Chromatographic purification on silica gel and crystallization from hexane gives 380 mg (18%) of the end product. The product has the following phase sequence:

reactant | 2-octyloxy-3-dimethylaminoacrolein | 9.96 mmol, 2.27 g | C(CCCCCCC)OC(C=O)=CN(C)C | C13H25NO2
reactant | transcyclohexane-1,4-diamidine dihydrochloride | 4.15 mmol, 1.0 g | Cl.Cl.[C@H]1(CC[C@H](CC1)C(=N)N)C(=N)N
reactant | sodium | 9.96 mmol | [Na] | Na
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 6.3 ml | C(C)O | C2H6O
product | trans-1,4-bis(5-octyloxypyrimidin-2-yl)cyclohexane | 380 mg, 18% | C(CCCCCCC)OC=1C=NC(=NC1)[C@@H]1CC[C@H](CC1)C1=NC=C(C=N1)OCCCCCCCC | C30H48N4O2
